US09056874B2
a) (±)-2-(Amino(5,7-dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoroacetamide and (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoroacetamide as described in Example 64-B and 64-C. 1H NMR (400 MHz, DMSO-d6) δ ppm. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (s, 1H) 7.93 (s, 1H) 7.59 (d, J=8.08 Hz, 1H) 7.48 (app dd, J=8.34, 1.26 Hz, 1H) 7.11 (t, J=2.78 Hz, 1H) 6.73 (s, 1H) 6.19 (s, 1H) 5.77 (s, 1H) 2.43 (s, 3H) 2.39 (s, 3H). HRMS calcd. for C19H17N5 (M+H)+ 316.1557. found 316.1563.

reactant | (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoroacetamide | C(#N)C1=CC2=C(N(C(=N2)C(NC(C(F)(F)F)=O)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C=C1 | C34H36F3N5O4SSi
reactant | (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoroacetamide | C(#N)C=1C=CC2=C(N(C(=N2)C(NC(C(F)(F)F)=O)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C1 | C34H36F3N5O4SSi
product | (±)-2-(Amino(5,7-dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CNC1=C(C=C2C)C | C19H17N5
